US06780883B2
N-{4-[3-(Diethylamino)propyl]phenyl}-benzamide
Benzoylchloride (6.33 g, 45 mmol) in pyridine (50 mL) was added over a 15-minute period to a solution of N,N-diethyl-3-(p-nitrophenyl)-propylamine (9.4 g, 45 mmol) in pyridine (50 mL). The solution was refluxed for 1.5 hours. The solvent was evaporated, giving a brown oil. The oil was dissolved in dichloromethane (300 mL) and washed with 1N NaOH (200 mL). The dichloromethane layer was dried and evaporated. Toluene (100 mL) was added to the resulting oil and re-evaporated. The semi-solid residue was washed with pentane, then recrystalized from cyclohexane (125 mL) to give the title compound.

reactant | Benzoylchloride | 45 mmol, 6.33 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N,N-diethyl-3-(p-nitrophenyl)-propylamine | 45 mmol, 9.4 g | C(C)N(CC)CCCC1=CC=C(C=C1)[N+](=O)[O-] | C13H20N2O2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-{4-[3-(Diethylamino)propyl]phenyl}-benzamide | C(C)N(CCCC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CC | C20H26N2O
